US08871790B2
Compound 118.5. 3-(4-Methoxyphenyl)cyclopropane-1,2-dicarboxylic acid
A mixture of dimethyl 3-(4-methoxyphenyl)cyclopropane-1,2-dicarboxylate (0.88 g, 3.33 mmol) and LiOH (2M in H2O, 10 mL) in THF (30 mL) was stirred at 55° C. overnight. After cooling to room temperature, the reaction mixture was poured into 1N HCl and extracted with EtOAc (3×). The combined organic extract was dried over MgSO4, filtered, and concentrated to give the title compound as a light yellow solid.

reactant | dimethyl 3-(4-methoxyphenyl)cyclopropane-1,2-dicarboxylate | 3.33 mmol, 0.88 g | COC1=CC=C(C=C1)C1C(C1C(=O)OC)C(=O)OC | C14H16O5
reactant | LiOH | 2M, 10 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(4-Methoxyphenyl)cyclopropane-1,2-dicarboxylic acid | COC1=CC=C(C=C1)C1C(C1C(=O)O)C(=O)O | C12H12O5
